US04913728
A solution of 2-chloro-4-thiocyanoaniline (40 g., 0.22 mole) in ethanol (250 ml.) is added to a stirred solution of sodium sulfide nonahydrate (58.5 g., 0.22 mole) in water (110 ml.) and the mixture is warmed (50° C.) for 45 minutes. Ethyl iodide (36.6 g., 0.22 mole) is added and stirring is continued for 2 hours at 50° C. and then at room temperature overnight. The reaction is poured into water (3 liters) and the product extracted with either. The combined extracts are washed with water and dried (CaSO4). Removal of the drying agent and solvent gives 2-chloro-4-ethylthioaniline, an oil.

reactant | 2-chloro-4-thiocyanoaniline | 0.22 mole, 40 g | ClC1=C(N)C=CC(=C1)SC#N | C7H5ClN2S
reactant | sodium sulfide nonahydrate | 0.22 mole, 58.5 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | Ethyl iodide | 0.22 mole, 36.6 g | C(C)I | C2H5I
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | water | 110 ml | O | H2O
solvent | water | 3 liters | O | H2O
product | 2-chloro-4-ethylthioaniline | ClC1=C(N)C=CC(=C1)SCC | C8H10ClNS
